US03984397
To a solution of 2,2,2-trichloroethyl 2-methyl-2,3-methylene-6-(phenylthio)carbonylaminopenam-3-carboxylate (1.04 g.) in a mixture of dimethylformamide (7 ml.) and acetic acid (2.2 ml.) was added zinc powder (1.8 g.) under ice-cooling, and the mixture was stirred for 1.5 hours. After the reaction, zinc powder was filtered off and the filtrate was poured into a mixture of ethyl acetate (30 ml.) and ice-water (30 ml.) containing 2% hydrochloric acid (2 ml.), extracted and then the aqueous layer was further extracted with ethyl acetate (10 ml.) The combined extract was washed with water and a saturated sodium chloride aqueous solution in turn, dried over magnesium sulfate and then the solvent was removed under reduced pressure. The obtained residue was crystallized by adding a small amount of acetonitrile to give 2-methyl-2,3-methylene-6-(phenylthio)carbonylaminopenam-3-carboxylic acid (0.43 g.), mp 116° to 119°C (dec.).

reactant | 2,2,2-trichloroethyl 2-methyl-2,3-methylene-6-(phenylthio)carbonylaminopenam-3-carboxylate | 1.04 g | CC12S[C@H]3N(C1(C(=O)OCC(Cl)(Cl)Cl)C2)C(C3NC(=O)SC3=CC=CC=C3)=O | C17H15Cl3N2O4S2
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | 2.2 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 1.8 g | [Zn] | Zn
product | 2-methyl-2,3-methylene-6-(phenylthio)carbonylaminopenam-3-carboxylic acid | 0.43 g | CC12S[C@H]3N(C1(C(=O)O)C2)C(C3NC(=O)SC3=CC=CC=C3)=O | C15H14N2O4S2
